US04383945
A solution of methyl 4-[(2R,3R)-3-amino-4-oxoazetidin-2-yl]-3-methoxybut-2-enoate [(E,Z)-isomeric mixture] (145 mg) in acetic formic anhydride (1 ml) was stirred at 5° C. for one hour. The resultant solution was evaporated in vacuo, and the residue was chromatographed on silica gel (2.5 g) eluting with 3 to 5% methanol in dichloromethane to give methyl 4-[(2R,3R)-3-formamido-4-oxoazetidin-2-yl]-3-methoxybut-2-enoate [(E,Z)-isomeric mixture] (133 mg) as an amorphous solid.

reactant | methyl 4-[(2R,3R)-3-amino-4-oxoazetidin-2-yl]-3-methoxybut-2-enoate | 145 mg | N[C@@H]1[C@H](NC1=O)CC(=CC(=O)OC)OC | C9H14N2O4
reactant | acetic formic anhydride | 1 ml | C(=O)OC(C)=O | C3H4O3
product | methyl 4-[(2R,3R)-3-formamido-4-oxoazetidin-2-yl]-3-methoxybut-2-enoate | 133 mg | C(=O)N[C@@H]1[C@H](NC1=O)CC(=CC(=O)OC)OC | C10H14N2O5
